US07112697B1
Diphenylsulfide (entry 1, Table 2):
The general procedure was used to convert iodobenzene and thiophenol to the title product. Purification by flash chromatography (hexane as the eluent) gave the analytically pure product as a clear oil (360 mg, 98% yield). 1H NMR (300 MHz, CDCl3) δ 7.48–7.44 (m, 4H; Ha, Ha′, Hd, Hd′), 7.42–7.39 (m, 4H; Hb, Hb′, He, He′), 7.37–7.31 (m, 2H; Hc, Hc′). 13C NMR (75 MHz, CDCl3) δ 135.70 (C1), 130.94 (C2), 129.10 (C3), 126.94 (C4). Anal. Calcd. for C12H10S: C, 77.37; H, 5.41; S, 17.21; Found C, 77.50; H, 5.45; S, 17.00.

reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | Diphenylsulfide | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
